US03932440
Preparation of p-(1H-tetrazol-1-yl)benzenethiol
A mixture of p-aminothiophenol (9.0 g.), sodium azide (7.0 g.), triethyl orthoformate (30 ml.), and acetic acid (30 ml.) was stirred and heated at 85°C. for 30 minutes. The reaction mixture was evaporated at reduced pressure and diluted with water to give a crystalline product which was collected and recrystallized from chloroform:hexane, m.p. 120°-122°C.

reactant | p-aminothiophenol | 9.0 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium azide | 7.0 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 30 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | p-(1H-tetrazol-1-yl)benzenethiol | N1(N=NN=C1)C1=CC=C(C=C1)S | C7H6N4S
